US06930104B2
4-(3,4-Dihydro-2H-1,4-benzoxazin-4-yl)-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinoline
Starting with cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol (400 mg, 1.22 mmol) prepared in Reference Example 1 and 3,4-dihydro-2H-1,4-benzoxazine (495 mg, 3.66 mmol), the same procedure as shown in Example 1 was repeated to give the titled compound (320 mg, yield: 59%) as a colorless oil. (cis:trans=1:2.3)

reactant | cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol | 1.22 mmol, 400 mg | COC=1C=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)O)C)C=CC1OC | C19H21NO4
reactant | 3,4-dihydro-2H-1,4-benzoxazine | 3.66 mmol, 495 mg | O1CCNC2=C1C=CC=C2 | C8H9NO
product | 4-(3,4-Dihydro-2H-1,4-benzoxazin-4-yl)-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinoline | 320 mg, yield: 59% | O1CCN(C2=C1C=CC=C2)C2CC(N(C1=CC=CC=C21)C(C2=CC(=C(C=C2)OC)OC)=O)C | C27H28N2O4
